US04804658
A stirred solution of imidazo[4,5-c]pyridine (10.0 g, 0.084 mol) in dry dimethylformamide (100 ml) at 18° C. under a nitrogen atmosphere, was treated with sodium hydride (5.04 g of 60% dispersion in mineral oil, 0.126 mol) in portions over a period of 5 minutes. The mixture was stirred for an additional 2.5 hours until hydrogen evolution had ceased. The mixture was cooled to 0° C., treated with ethyl 4-bromomethylbenzoate (22.6 g, 0.093 mol), allowed to warm up to room temperature and then stirred for an additional 18 hours. The mixture was diluted with ethyl acetate (600 ml), washed with water (3×200 ml) and dried over anhydrous sodium sulphate. The solvent was evaporated off under reduced pressure to yield an impure mixture of isomers which was purified by chromatography (silica gel, chloroform) to yield a less polar isomer which was recrystallized from ethyl acetate-hexane to yield ethyl 4-(3H-imidazo[4,5-c]pyridin-3-ylmethyl)benzoate as a colorless crystalline solid, having a melting point of 110°-111.5° C. and the following physical characteristics:

reactant | imidazo[4,5-c]pyridine | 0.084 mol, 10.0 g | N1C=NC=2C=NC=CC21 | C6H5N3
reactant | sodium hydride | 0.126 mol, 5.04 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl 4-bromomethylbenzoate | 0.093 mol, 22.6 g | BrCC1=CC=C(C(=O)OCC)C=C1 | C10H11BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(3H-imidazo[4,5-c]pyridin-3-ylmethyl)benzoate | N1=CN(C=2C=NC=CC21)CC2=CC=C(C(=O)OCC)C=C2 | C16H15N3O2
